US09278944B2
1-(5-Bromo-6-chloropyridin-3-yl)ethanone and cyclopropylamine were treated in the similar manner to Reference Example 6(6) to give N-[1-(5-bromo-6-chloropyridin-3-yl)ethyl]cyclopropylamine [REx(113-2)] as a pale yellow oil.

reactant | 1-(5-Bromo-6-chloropyridin-3-yl)ethanone | BrC=1C=C(C=NC1Cl)C(C)=O | C7H5BrClNO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-[1-(5-bromo-6-chloropyridin-3-yl)ethyl]cyclopropylamine | BrC=1C=C(C=NC1Cl)C(C)NC1CC1 | C10H12BrClN2
